US05767131
Methyl 5-azidovalerate (4.01 g, 25.5 mmol) and KOH (7.58 g, 0.135 mol) were dissolved in a mixture of 70 ml of water and 90 ml of MeOH. The solution was stirred at 0° C. After 2 hrs, the MeOH was removed in vacuo. The aqueous layer was extracted by CHCl3 (50 ml), acidified to pH=1 by 2N aqueous HCl and extracted by Et2O (2×100 ml). The organic layers were combined, washed with water (100 ml) and dried over Na2SO4. After filtration and evaporation of solvent, 5-azidovaleric acid (2.85 g, 77.6%) was obtained as a colorless oil.

reactant | Methyl 5-azidovalerate | 25.5 mmol, 4.01 g | N(=[N+]=[N-])CCCCC(=O)OC | C6H11N3O2
reactant | KOH | 0.135 mol, 7.58 g | [OH-].[K+]
solvent | water | 70 ml | O | H2O
solvent | MeOH | 90 ml | CO | CH4O
product | 5-azidovaleric acid | 2.85 g, 77.6% | N(=[N+]=[N-])CCCCC(=O)O | C5H9N3O2
